US06821964B2
Preparation of Ethyl N-(2,2-dimethoxyethyl)-carbamate (I-3a):
A two-liter, three-necked round bottom flask was fitted with a 125-mL addition funnel and a digital thermometer probe. To this flask was added 65 g (618 mmol) of aminoacetaldehyde dimethyl acetal, 310 mL of toluene, and a solution of 27.8 g (695 mmol) of NaOH in 155 mL of water. This reaction mixture was cooled to 10° C. via ice bath. Ethyl chloroformate (59.1 mL, 618 mmol) was then added dropwise to the reaction mixture via addition funnel over a 15-20 minute period making sure the reaction temperature stayed near 10° C. Once addition was complete the reaction was stirred at room temperature for two hours. The aqueous layer was then separated, saturated with solid sodium chloride, and extracted with 3×50 mL of toluene. The toluene layers were combined, dried over magnesium sulfate, filtered, and concentrated in vacuo.

reactant | aminoacetaldehyde dimethyl acetal | 618 mmol, 65 g | COC(CN)OC | C4H11NO2
reactant | toluene | 310 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | 695 mmol, 27.8 g | [OH-].[Na+]
reactant | Ethyl chloroformate | 618 mmol, 59.1 mL | ClC(=O)OCC | C3H5ClO2
solvent | water | 155 mL | O | H2O
product | Ethyl N-(2,2-dimethoxyethyl)-carbamate | COC(CNC(OCC)=O)OC | C7H15NO4
